* C:\Users\aubre\Desktop\ide\IdeLab\Lab7\Biquad.asc
XU1 0 N002 P001 P002 N001 level3a Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg Ro=1k Ccm=1p Cdiff=2p
XU2 0 N004 N007 N006 Vout level3a Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg Ro=1k Ccm=1p Cdiff=2p
XU3 0 N003 N007 N006 N005 level3a Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg Ro=1k Ccm=1p Cdiff=2p
R4_2 Vout N002 30k
R4_1 Vout N004 30k
C1 N005 N003 .01µf
R2 N005 N003 750k
R1 N003 P003 75k
R4 N004 N005 30k
V1 P003 0 ac 1
R3 N001 N003 30k
C2 N002 N001 .01µf
V2 0 P002 10v
V3 P001 0 10v
V4 N007 0 10v
V5 0 N006 10v
.ac dec 1000 100 1000
.lib UniversalOpamp.lib
.backanno
.end
