* C:\Users\aubre\Desktop\ide\IdeLab\Lab7\ButterWorth.asc
R1 N001 P001 6k
R2 N002 N001 28k
C1 Vout N001 1µf
C2 N002 0 2µf
XU1 N004 N002 N003 N005 Vout level3a Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg Ro=1k Ccm=1p Cdiff=2p
R3 0 N004 36k
R4 Vout N004 300k
V1 P001 0 ac 1
V2 N003 0 100v
V3 0 N005 100v
.ac dec 1000 1 100
.lib UniversalOpamp.lib
.backanno
.end
