* C:\Users\aubre\Desktop\ide\IdeLab\Lab7\Draft2.asc
R1 N004 P001 1k
C1 N001 N004 1.591549E-7
R2 N002 N004 1k
C2 N002 0 1.591549E-7
XU1 N003 N002 NC_01 NC_02 N001 level3a Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg Ro=1k Ccm=1p Cdiff=2p
R3 N003 0 1k
R4 N001 N003 1k
V1 P001 0 ac 1
.ac dec 10 1 1Meg
.lib UniversalOpamp.lib
.backanno
.end
