* C:\Users\aubre\Desktop\ide\IdeLab\Lab7\ThirdOrder.asc
V1 N001 0 ac 1
R1 VOut N003 10k
C1 VOut 0 10nf
C2 N003 0 100nf
R2 N003 N002 1000
R3 N002 N001 100
C3 N002 0 1000nf
.ac dec 10 1 1Meg
.step param C list 100p 1n 10n 100n
.backanno
.end
